US07705027B2
Methyl 2-benzoyloxy-5-chloro-benzoate
A mixture of methyl 5-chloro-2-hydroxy-benzoate (2.5 g, 13.4 mmol), K2CO3 (3.7 g, 26.8 mmol) and benzyl bromide (2.98 g, 17.4 mmol) in acetone (30 ml) was refluxed for 12 hours. After cooling, acetone was evaporated. EtOAc (100 ml) was added and filtered. The organic layer was then washed with 1M HCl (1×80 ml), brine (2×80 ml) and dried with Na2SO4. After filtration and evaporation of the solvent, yellow semi-solids were obtained (3.2 g). 1H NMR (d6-acetone) δ=7.73 (1H, d); 7.60-7.30 (1H+5H, m); 7.28 (1H, d); 5.30 (2H, s) and 3.90 (3H, s).

reactant | methyl 5-chloro-2-hydroxy-benzoate | 13.4 mmol, 2.5 g | ClC=1C=CC(=C(C(=O)OC)C1)O | C8H7ClO3
reactant | K2CO3 | 26.8 mmol, 3.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 17.4 mmol, 2.98 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | Methyl 2-benzoyloxy-5-chloro-benzoate | C(C1=CC=CC=C1)(=O)OC1=C(C(=O)OC)C=C(C=C1)Cl | C15H11ClO4
